### PR TITLE
[Merged by Bors] - feat: a `MeasurableEmbedding` has a measurable left inverse

### PR DESCRIPTION
**Pull request by gaetanserre**
Definition of the measurable left inverse of a `MeasurableEmbedding`.

Co-authored-by: Rémy Degenne <remy.degenne@inria.fr>

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/MeasureTheory/MeasurableSpace/Embedding.lean [hunk 1]
```diff
@@ -743,6 +743,35 @@ noncomputable def schroederBernstein {f : α → β} {g : β → α} (hf : Measu
...
+lemma equivRange_apply (hf : MeasurableEmbedding f) (x : α) :
+    hf.equivRange x = ⟨f x, mem_range_self x⟩ := by
+  suffices f x = (hf.equivRange x).1 by simp [this]
+  simp [MeasurableEmbedding.equivRange, MeasurableEquiv.cast, MeasurableEquiv.Set.univ,
+    MeasurableEmbedding.equivImage]
+
+lemma equivRange_symm_apply_mk (hf : MeasurableEmbedding f) (x : α) :
+    hf.equivRange.symm ⟨f x, mem_range_self x⟩ = x := by
+  have : x = hf.equivRange.symm (hf.equivRange x) := EquivLike.inv_apply_eq.mp rfl
+  conv_rhs => rw [this, hf.equivRange_apply]
```
Comment (EtienneC30) [inline Mathlib/MeasureTheory/MeasurableSpace/Embedding.lean]: I think these two can be `simp`.

Comment (EtienneC30) [inline Mathlib/MeasureTheory/MeasurableSpace/Embedding.lean]: May I suggest another proof which avoids `have` and `conv`:
```suggestion
  nth_rw 3 [← hf.equivRange.symm_apply_apply x]
  rw [hf.equivRange_apply]
```

File: Mathlib/MeasureTheory/MeasurableSpace/Embedding.lean [hunk 2]
```diff
@@ -743,6 +743,35 @@ noncomputable def schroederBernstein {f : α → β} {g : β → α} (hf : Measu
...
+
+/-- The left-inverse of a MeasurableEmbedding -/
```
Comment (EtienneC30) [inline Mathlib/MeasureTheory/MeasurableSpace/Embedding.lean]:
```suggestion
/-- The left-inverse of a `MeasurableEmbedding` -/
```

File: Mathlib/MeasureTheory/MeasurableSpace/Embedding.lean [hunk 3]
```diff
@@ -743,6 +743,35 @@ noncomputable def schroederBernstein {f : α → β} {g : β → α} (hf : Measu
...
+protected noncomputable
+def invFun [Nonempty α] (hf : MeasurableEmbedding f) [∀ x, Decidable (x ∈ range f)] (x : β) : α :=
+  if hx : x ∈ range f then hf.equivRange.symm ⟨x, hx⟩ else (Nonempty.some inferInstance)
+
+@[fun_prop]
```
Comment (EtienneC30) [inline Mathlib/MeasureTheory/MeasurableSpace/Embedding.lean]:
```suggestion
@[fun_prop, measurability]
```

File: Mathlib/MeasureTheory/MeasurableSpace/Embedding.lean [hunk 4]
```diff
@@ -743,6 +743,35 @@ noncomputable def schroederBernstein {f : α → β} {g : β → α} (hf : Measu
...
+lemma measurable_invFun [Nonempty α] [∀ x, Decidable (x ∈ range f)]
+    (hf : MeasurableEmbedding f) :
```
Comment (EtienneC30) [inline Mathlib/MeasureTheory/MeasurableSpace/Embedding.lean]:
```suggestion
lemma measurable_invFun [Nonempty α] [∀ x, Decidable (x ∈ range f)] (hf : MeasurableEmbedding f) :
```

File: Mathlib/MeasureTheory/MeasurableSpace/Embedding.lean [hunk 5]
```diff
@@ -743,6 +743,35 @@ noncomputable def schroederBernstein {f : α → β} {g : β → α} (hf : Measu
...
+    Measurable (hf.invFun : β → α) :=
+  Measurable.dite (by fun_prop) measurable_const hf.measurableSet_range
+
+lemma leftInverse_invFun [Nonempty α] [∀ x, Decidable (x ∈ range f)]
+    (hf : MeasurableEmbedding f) :
```
Comment (EtienneC30) [inline Mathlib/MeasureTheory/MeasurableSpace/Embedding.lean]:
```suggestion
lemma leftInverse_invFun [Nonempty α] [∀ x, Decidable (x ∈ range f)] (hf : MeasurableEmbedding f) :
```

File: Mathlib/MeasureTheory/MeasurableSpace/Embedding.lean [hunk 6]
```diff
@@ -743,6 +743,35 @@ noncomputable def schroederBernstein {f : α → β} {g : β → α} (hf : Measu
...
+    Function.LeftInverse hf.invFun f := by
+  intro x
+  simp only [MeasurableEmbedding.invFun, mem_range, exists_apply_eq_apply, ↓reduceDIte]
+  exact hf.equivRange_symm_apply_mk x
```
Comment (EtienneC30) [inline Mathlib/MeasureTheory/MeasurableSpace/Embedding.lean]: If you add `simp` to `equivRange_symm_apply_mk` you can just do
```suggestion
  simp [MeasurableEmbedding.invFun]
```

File: Mathlib/MeasureTheory/MeasurableSpace/Embedding.lean [hunk 7]
```diff
@@ -743,6 +743,35 @@ noncomputable def schroederBernstein {f : α → β} {g : β → α} (hf : Measu
...
+
+@[fun_prop]
+lemma measurable_invFun [Nonempty α] [∀ x, Decidable (x ∈ range f)]
+    (hf : MeasurableEmbedding f) :
+    Measurable (hf.invFun : β → α) :=
+  Measurable.dite (by fun_prop) measurable_const hf.measurableSet_range
+
+lemma leftInverse_invFun [Nonempty α] [∀ x, Decidable (x ∈ range f)]
+    (hf : MeasurableEmbedding f) :
+    Function.LeftInverse hf.invFun f := by
```
Comment (EtienneC30) [inline Mathlib/MeasureTheory/MeasurableSpace/Embedding.lean]: Dot notation:
```suggestion
    hf.invFun.LeftInverse f := by
```

**Review by EtienneC30 — COMMENTED** [review]
Thanks!

File: Mathlib/MeasureTheory/MeasurableSpace/Embedding.lean (hunk 1 above)
Comment (gaetanserre) [reply Mathlib/MeasureTheory/MeasurableSpace/Embedding.lean]: Thanks! I was not aware of the `nth_rw` tactic

Comment (gaetanserre) [reply Mathlib/MeasureTheory/MeasurableSpace/Embedding.lean]: I agree. See [#a0125b3](https://github.com/leanprover-community/mathlib4/pull/27517/commits/a0125b3aee509022d4a1dbc5ed4a9ce117f428bb).

File: Mathlib/MeasureTheory/MeasurableSpace/Embedding.lean (hunk 6 above)
Comment (gaetanserre) [reply Mathlib/MeasureTheory/MeasurableSpace/Embedding.lean]: Thank you! See [#2b7bbf8](https://github.com/leanprover-community/mathlib4/pull/27517/commits/2b7bbf8a4f6983b8cffa1832a1c0264fcb4e2a16).

**Comment by gaetanserre** [comment]
Thank you very much for your review!

File: Mathlib/MeasureTheory/MeasurableSpace/Embedding.lean (hunk 6 above)
Comment (EtienneC30) [reply Mathlib/MeasureTheory/MeasurableSpace/Embedding.lean]: The `simp` here is closing the goal so you can just write `simp [MeasurableEmbedding.invFun]` instead of squeezing it (i.e. using `simp only`).

**Comment by EtienneC30** [comment]
Just a small detail [here](https://github.com/leanprover-community/mathlib4/pull/27517#discussion_r2250820403) and then it will be ready to go!

File: Mathlib/MeasureTheory/MeasurableSpace/Embedding.lean (hunk 6 above)
Comment (gaetanserre) [reply Mathlib/MeasureTheory/MeasurableSpace/Embedding.lean]: Sure, see [#5d34ae2](https://github.com/leanprover-community/mathlib4/pull/27517/commits/5d34ae22e01fc8afe0cd5fc4549a20c35b244d58)!

**Comment by gaetanserre** [comment]
> Just a small detail [here](https://github.com/leanprover-community/mathlib4/pull/27517#discussion_r2250820403) and then it will be ready to go!

Sure, see [#5d34ae2](https://github.com/leanprover-community/mathlib4/pull/27517/commits/5d34ae22e01fc8afe0cd5fc4549a20c35b244d58)!

**Comment by EtienneC30** [comment]
Thanks!
maintainer merge

File: Mathlib/MeasureTheory/MeasurableSpace/Embedding.lean [hunk 8]
```diff
@@ -743,6 +743,34 @@ noncomputable def schroederBernstein {f : α → β} {g : β → α} (hf : Measu
...
+
+@[simp]
+lemma equivRange_symm_apply_mk (hf : MeasurableEmbedding f) (x : α) :
+    hf.equivRange.symm ⟨f x, mem_range_self x⟩ = x := by
+  nth_rw 3 [← hf.equivRange.symm_apply_apply x]
+  rw [hf.equivRange_apply]
+
+/-- The left-inverse of a `MeasurableEmbedding` -/
+protected noncomputable
+def invFun [Nonempty α] (hf : MeasurableEmbedding f) [∀ x, Decidable (x ∈ range f)] (x : β) : α :=
```
Comment (sgouezel) [inline Mathlib/MeasureTheory/MeasurableSpace/Embedding.lean]: I'd drop the decidable assumption there, and make everything classical: I don't expect we will ever want to compute with something having to do with measurability.

Comment (gaetanserre) [reply Mathlib/MeasureTheory/MeasurableSpace/Embedding.lean]: I agree, see [#d00670e](https://github.com/leanprover-community/mathlib4/pull/27517/commits/d00670ed469758cfcfcc6b356d3dc533850d77f5).

File: Mathlib/MeasureTheory/MeasurableSpace/Embedding.lean [hunk 9]
```diff
@@ -743,6 +743,35 @@ noncomputable def schroederBernstein {f : α → β} {g : β → α} (hf : Measu
...
+  nth_rw 3 [← hf.equivRange.symm_apply_apply x]
+  rw [hf.equivRange_apply]
+
+open Classical in
+/-- The left-inverse of a `MeasurableEmbedding` -/
+protected noncomputable
+def invFun [Nonempty α] (hf : MeasurableEmbedding f) (x : β) : α :=
+  if hx : x ∈ range f then hf.equivRange.symm ⟨x, hx⟩ else (Nonempty.some inferInstance)
+
+open Classical in
```
Comment (sgouezel) [inline Mathlib/MeasureTheory/MeasurableSpace/Embedding.lean]: You shouldn't need to `open Classical` in the statement here. Maybe in the proof, but then it's better to do it only in the proof.

Comment (gaetanserre) [reply Mathlib/MeasureTheory/MeasurableSpace/Embedding.lean]: Sorry I did not know that. Do you mean something like this?
```lean
protected noncomputable
def invFun [Nonempty α] (hf : MeasurableEmbedding f) (x : β) : α :=
  open Classical in
  if hx : x ∈ range f then hf.equivRange.symm ⟨x, hx⟩ else (Nonempty.some inferInstance)
```
(See [#c3cf24b](https://github.com/leanprover-community/mathlib4/pull/27517/commits/c3cf24b88fcbcb95355af0b2c16d4b5a665d8cb7))

File: Mathlib/MeasureTheory/MeasurableSpace/Embedding.lean [hunk 10]
```diff
@@ -743,6 +743,35 @@ noncomputable def schroederBernstein {f : α → β} {g : β → α} (hf : Measu
...
+/-- The left-inverse of a `MeasurableEmbedding` -/
+protected noncomputable
+def invFun [Nonempty α] (hf : MeasurableEmbedding f) (x : β) : α :=
+  open Classical in
+  if hx : x ∈ range f then hf.equivRange.symm ⟨x, hx⟩ else (Nonempty.some inferInstance)
+
+@[fun_prop, measurability]
+lemma measurable_invFun [Nonempty α] (hf : MeasurableEmbedding f) :
+    Measurable (hf.invFun : β → α) :=
+   open Classical in
```
Comment (sgouezel) [inline Mathlib/MeasureTheory/MeasurableSpace/Embedding.lean]:
```suggestion
  open Classical in
```

**Review by sgouezel — COMMENTED** [review]
I meant only in the proof of `measurable_invFun`, but the way it's now written in the definition is also perfectly fine. Thanks!
bors d+
